US07842696B2
DIPEA (85.5 mg, 0.114 mL, 0.66 mmol) was added to a stirred solution of N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide (60 mg, 0.176 mmol) in DMF (3 mL). HOBT (21.89 mg, 0.16 mmol) and EDCI.HCl (70.5 mg, 0.36 mmol) were then added at room temperature. After 2 minutes, 3-methyl-thiophene-2-carboxylic acid (20.9 mg, 0.15 mmol) was added and the resulting mixture was stirred at room temperature overnight. The reaction mixture was then diluted with cold water, and the resulting precipitate was filtered, washed with water then hexane and dried to afford 52 mg (76.5% yield) of N-{2-[4-(3-methyl-thiophene-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenoxy-benzamide as a pale brown solid. LCMS Purity: 98.86%, HPLC Purity: 98.50%. 1H NMR (CDCl3): δ 7.8 (d, 2H), 7.4 (m, 2H), 7.3 (d, 1H), 7.2 (s, 1H), 7.1 (t, 1H), 7.0 (m, 4H), 6.85 (d, 1H), 4.3 (dd, 2H), 3.7 (m, 6H), 3.5 (t, 2H), 2.2 (s, 3H).

reactant | DIPEA | 0.66 mmol, 0.114 mL, 85.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide | 0.176 mmol, 60 mg | O=C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)N1CCNCC1 | C19H21N3O3
reactant | HOBT | 0.16 mmol, 21.89 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.36 mmol, 70.5 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3-methyl-thiophene-2-carboxylic acid | 0.15 mmol, 20.9 mg | CC1=C(SC=C1)C(=O)O | C6H6O2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{2-[4-(3-methyl-thiophene-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenoxy-benzamide | 52 mg, 76.5% yield | CC1=C(SC=C1)C(=O)N1CCN(CC1)C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=O | C25H25N3O4S
